* Erik Bruun 2015, CMOS Integrated Circuit Simulation with LTspice IV - a Tutorial Guide
* Generic BSIM3 model for 0.18 um CMOS process with speed parameters SN and SP to define process variations.
* To use without speed parameters and only with typical process parameters, un-comment the line *.PARAM SN=0 SP=0
* BSIM3_180.lib
* Speed parameters SN and SP
*.PARAM SN=0 SP=0 ; Un-comment this command for use with only typical models
.PARAM Lmin = 0.18u ; minimum transistor length
*
.subckt NM D G S B
+params: W={3*Lmin} L={Lmin} M={1}
M1 D G S B NMOS-BSIM L={L} W={W} AS={3*Lmin*W} AD={3*Lmin*W} PS={W+6*Lmin} PD={W+6*Lmin} M={M}
.ends
*
.subckt PM D G S B
+params: W={9*Lmin} L={Lmin} M={1}
M1 D G S B PMOS-BSIM L={L} W={W} AS={3*Lmin*W} AD={3*Lmin*W} PS={W+6*Lmin} PD={W+6*Lmin} M={M}
.ends
*
.MODEL NMOS-BSIM NMOS
+ VERSION = 3
+ LEVEL = 49 NOIMOD = 1 TNOM = 2.70E+01
+ TOX = {4.1E-9/(1+SN/20)} XJ = 1.00E-07 NCH = 2.33E+17
+ VTH0 = {0.36-SN/10} K1 = 5.84E-01 K2 = 4.14E-03
+ K3 = 1.01E-03 K3B = 2.20E+00 W0 = 1.00E-07
+ NLX = 1.81E-07 DVT0W = 0.00E+00 DVT1W = 0.00E+00
+ DVT2W = 0.00E+00 DVT0 = 1.73E+00 DVT1 = 4.38E-01
+ DVT2 = -3.70E-04 U0 ={260*(1+SN/20)**2} UA = -1.38E-09
+ UB = 2.26E-18 UC = 5.46E-11 VSAT = 1.03E+05
+ A0 = 1.92E+00 AGS = 4.20E-01 B0 = -1.52E-09
+ B1 = -9.92E-08 KETA = -7.16E-03 A1 = 6.61E-04
+ A2 = 8.89E-01 RDSW = 1.12E+02 PRWG = 4.92E-01
+ PRWB = -2.02E-01 WR = 1.00E+00
+ WINT = 7.12E-09 LINT = 1.12E-08
+ DWG = -3.82E-09 DWB = 8.63E-09 VOFF = -8.82E-02
+ NFACTOR = 2.30E+00 CIT = 0.00E+00 CDSC = 2.40E-04
+ CDSCD = 0.00E+00 CDSCB = 0.00E+00 ETA0 = 3.13E-03
+ ETAB = 1.00E+00 DSUB = 2.25E-02 PCLM = 7.20E-01
+ PDIBLC1 = 2.15E-01 PDIBLC2 = 2.23E-03 PDIBLCB = 1.00E-01
+ DROUT = 8.01E-01 PSCBE1 = 5.44E+08 PSCBE2 = 1.00E-03
+ PVAG = 1.00E-12 DELTA = 1.00E-02 RSH = 6.78E+00
+ MOBMOD = 1.00E+00 PRT = 0.00E+00 UTE = -1.50E+00
+ KT1 = -1.10E-01 KT1L = 0.00E+00 KT2 = 2.19E-02
+ UA1 = 4.28E-09 UB1 = -7.62E-18 UC1 = -5.57E-11
+ AT = 3.30E+04 WL = 0.00E+00 WLN = 1.00E+00
+ WW = 0.00E+00 WWN = 1.00E+00 WWL = 0.00E+00
+ LL = 0.00E+00 LLN = 1.00E+00 LW = 0.00E+00
+ LWN = 1.00E+00 LWL = 0.00E+00 CAPMOD = 2.00E+00
+ XPART = 5.00E-01 CGDO = 6.98E-10 CGSO = 7.03E-10
+ CGBO = 1.00E-12 CJ = {9.8e-4/(1+SN/20)} PB = 7.34E-01
+ MJ = 3.63E-01 CJSW = {2.4e-10/(1+SN/20)} PBSW = 4.71E-01
+ MJSW = 1.00E-01 CJSWG = 3.29E-10 PBSWG = 4.66E-01
+ MJSWG = 1.00E-01 CF = 0.00E+00 PVTH0 = -7.16E-04
+ PRDSW = -6.66E-01 PK2 = 5.92E-04 WKETA = 2.14E-04
+ LKETA = -1.51E-02 PU0 = 3.36E+00 PUA = -1.31E-11
+ PUB = 0.00E+00 PVSAT = 1.25E+03 PETA0 = 1.00E-04
+ PKETA = 6.45E-04 KF = 4.46E-29

.MODEL PMOS-BSIM PMOS
+ VERSION = 3.1
+ LEVEL = 49 NOIMOD = 1
+ TNOM = 2.70E+01 TOX = {4.1E-9/(1+SP/20)} XJ = 1.00E-07
+ NCH = 4.12E+17 VTH0 = {-0.39+SP/10} K1 = 5.50E-01
+ K2 = 3.50E-02 K3 = 0.00E+00 K3B = 1.20E+01
+ W0 = 1.00E-06 NLX = 1.25E-07 DVT0W = 0.00E+00
+ DVT1W = 0.00E+00 DVT2W = 0.00E+00 DVT0 = 5.53E-01
+ DVT1 = 2.46E-01 DVT2 = 1.00E-01 U0 = {110*(1+SP/20)**2}
+ UA = 1.44E-09 UB = 2.29E-21 UC = -1.00E-10
+ VSAT = 1.95E+05 A0 = 1.72E+00 AGS = 3.80E-01
+ B0 = 5.87E-07 B1 = 1.44E-06 KETA = 2.21E-02
+ A1 = 4.66E-01 A2 = 3.00E-01 RDSW = 3.11E+02
+ PRWG = 5.00E-01 PRWB = 1.64E-02 WR = 1.00E+00
+ WINT = 0.00E+00 LINT = 2.00E-08
+ DWG = -3.49E-08 DWB = 1.22E-09
+ VOFF = -9.80E-02 NFACTOR = 2.00E+00 CIT = 0.00E+00
+ CDSC = 2.40E-04 CDSCD = 0.00E+00 CDSCB = 0.00E+00
+ ETA0 = 1.12E-03 ETAB = -4.79E-04 DSUB = 1.60E-03
+ PCLM = 1.50E+00 PDIBLC1 = 3.00E-02 PDIBLC2 = -1.01E-05
+ PDIBLCB = 1.00E-01 DROUT = 1.56E-03 PSCBE1 = 4.91E+09
+ PSCBE2 = 1.64E-09 PVAG = 3.48E+00 DELTA = 1.00E-02
+ RSH = 7.69E+00 MOBMOD = 1.00E+00 PRT = 0.00E+00
+ UTE = -1.49E+00 KT1 = -1.09E-01KT1L = 0.00E+00
+ KT2 = 2.18E-02 UA1 = 4.27E-09 UB1 = -7.68E-18
+ UC1 = -5.57E-11 AT = 3.31E+04 WL = 0.00E+00
+ WLN = 1.00E+00 WW = 0.00E+00 WWN = 1.00E+00
+ WWL = 0.00E+00 LL = 0.00E+00 LLN = 1.00E+00
+ LW = 0.00E+00 LWN = 1.00E+00 LWL = 0.00E+00
+ CAPMOD = 2.00E+00 XPART = 5.00E-01 CGDO = 6.88E-10
+ CGSO = 6.85E-10 CGBO = 1.00E-12 CJ = {1.2e-3/(1+SP/20)}
+ PB = 8.70E-01 MJ = 4.20E-01 CJSW = {2.4e-10/(1+SP/20)}
+ PBSW = 8.00E-01 MJSW = 3.57E-01 CJSWG = 4.24E-10
+ PBSWG = 8.00E-01 MJSWG = 3.56E-01 CF = 0.00E+00
+ PVTH0 = 3.53E-03 PRDSW = 1.02E+01 PK2 = 3.35E-03
+ WKETA = 3.52E-02 LKETA = -2.06E-03 PU0 = -2.19E+00
+ PUA = -7.63E-11 PUB = 9.91E-22 PVSAT = 5.00E+01
+ PKETA = -6.41E-03 KF = 1.29E-29 PETA0 = 7.31E-05
